US05864039
30% Aqueous hydrogen peroxide solution (27.6 ml) was dropwise added under ice-cooling to a solution of 4-phenylthiobutyl chloride (22.2 g) obtained in the same manner as in Preparation Example 99 in formic acid (150 ml), which was followed by stirring at room temperature for 1 hr. The reaction mixture was poured into ice water, neutralized with sodium hydroxide solution and extracted with chloroform. The organic layer was washed with brine, dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform) and further recrystallized from hexane to give 21 g of 4-phenylsulfonylbutyl chloride.

reactant | hydrogen peroxide | 27.6 ml | OO | H2O2
reactant | 4-phenylthiobutyl chloride | 22.2 g | C1(=CC=CC=C1)SCCCCCl | C10H13ClS
reactant | sodium hydroxide | [OH-].[Na+]
reactant | formic acid | 150 ml | C(=O)O | CH2O2
product | 4-phenylsulfonylbutyl chloride | 21 g | C1(=CC=CC=C1)S(=O)(=O)CCCCCl | C10H13ClO2S
